US05519133
Preparation of Methyl 3-{5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]-2-nitrophenyl}tetrahydro-2,4,6-trioxo-s-triazine-1(2H)-acetate
A solution of ethyl 3-{5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]-2-nitrophenyl}tetrahydro-2,4,6-trioxo-s-triazine-1(2H)-acetate (16.0 g, 0.030 mol) and sulfuric acid (1.60 mL, 0.030 mol) in methanol (240 mL, 5.92 mol) is refluxed overnight, treated with sulfuric acid (0.40 mL), refluxed for 90 minutes, treated with sulfuric acid (0.80 mL), refluxed for 90 minutes, treated with sulfuric acid (0.80 mL), refluxed for 1 hour, treated with sulfuric acid (0.80 mL), refluxed for 90 minutes, stirred at room temperature overnight, partially concentrated in vacuo and diluted with ether. The organic mixture is washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title product as a white solid, mp 166°-167° C.

reactant | ethyl 3-{5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]-2-nitrophenyl}tetrahydro-2,4,6-trioxo-s-triazine-1(2H)-acetate | 0.030 mol, 16.0 g | ClC1=C(C=CC(=C1)OC=1C=CC(=C(C1)N1C(N(C(NC1=O)=O)CC(=O)OCC)=O)[N+](=O)[O-])C(F)(F)F | C20H14ClF3N4O8
reactant | sulfuric acid | 0.030 mol, 1.60 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 5.92 mol, 240 mL | CO | CH4O
reactant | sulfuric acid | 0.40 mL | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 0.80 mL | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 0.80 mL | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 0.80 mL | S(O)(O)(=O)=O | H2O4S
product | Methyl 3-{5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]-2-nitrophenyl}tetrahydro-2,4,6-trioxo-s-triazine-1(2H)-acetate | ClC1=C(C=CC(=C1)OC=1C=CC(=C(C1)N1C(N(C(NC1=O)=O)CC(=O)OC)=O)[N+](=O)[O-])C(F)(F)F | C19H12ClF3N4O8
